US05734064
2.42 g (0.021 mol) of N-hydroxysuccinimide and 5.06 g (0.050 mol) of triethylamine were initially introduced into 5 ml of ethyl acetate and the suspension was stirred at room temperature. 2.72 g (0.020 mol) of solid 4-toluic acid were added to this suspension in the course of 5 min. and then a solution of 5.64 g (0.21 mol) of diphenyl chlorophosphate was added dropwise in the course of 20 min., the reaction mixture warming to about 35° C. The mixture was stirred at room temperature for 1 hour until the reaction was complete. The reaction mixture was then diluted with 100 ml of ethyl acetate and the organic phase was washed with 50 ml each of water, 2N hydrochloric acid and 10% strength aqueous sodium hydrogencarbonate solution and then evaporated. 4.65 g of crude product were isolated, which was then stirred at room temperature for 30 minutes with 20 ml of methyl tert-butyl ether. The white crystalline solid was filtered off and dried at 50° C. and 10 mbar. 4.28 g (94%) of 4-toluic acid succinimidyl ester were isolated.

reactant | N-hydroxysuccinimide | 0.021 mol, 2.42 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | triethylamine | 0.050 mol, 5.06 g | C(C)N(CC)CC | C6H15N
reactant | 4-toluic acid | C1(=CC=C(C=C1)C(=O)O)C | C8H8O2
reactant | diphenyl chlorophosphate | 0.21 mol, 5.64 g | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | methyl tert-butyl ether | 20 ml | C(C)(C)(C)OC | C5H12O
product | 4-toluic acid succinimidyl ester | 4.28 g, 94% | C1(CCC(N1OC(=O)C1=CC=C(C=C1)C)=O)=O | C12H11NO4
